US07498460B2
Methyl 4-{3-[4-(3-Cyclohexylpropoxy)phenyl]propoxy}-3-{[3-(2-ethoxy-2-oxo-ethyl)azetidin-1-yl]carbonyl}benzoate
Preparation takes place in analogy to the process described in Example 22 from methyl 3-{[3-(2-ethoxy-2-oxoethyl)azetidin-1-yl]carbonyl}-4-hydroxybenzoate and 1-(3-bromopropyl)-4-(3-cyclohexylpropoxy)benzene.

reactant | methyl 3-{[3-(2-ethoxy-2-oxoethyl)azetidin-1-yl]carbonyl}-4-hydroxybenzoate | C(C)OC(CC1CN(C1)C(=O)C=1C=C(C(=O)OC)C=CC1O)=O | C16H19NO6
reactant | 1-(3-bromopropyl)-4-(3-cyclohexylpropoxy)benzene | BrCCCC1=CC=C(C=C1)OCCCC1CCCCC1 | C18H27BrO
product | Methyl 4-{3-[4-(3-Cyclohexylpropoxy)phenyl]propoxy}-3-{[3-(2-ethoxy-2-oxo-ethyl)azetidin-1-yl]carbonyl}benzoate | C1(CCCCC1)CCCOC1=CC=C(C=C1)CCCOC1=C(C=C(C(=O)OC)C=C1)C(=O)N1CC(C1)CC(=O)OCC | C34H45NO7
